US07109186B2
Compound 866: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(4-fluorophenyl)-propyl]-methyl-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-[3-(4-fluorophenyl)-propyl]-N-methyl-acetamide (0.20 g, 0.62 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.11 g (56% yield) of the title compound as white crystals; mp 129° C. (dec) (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 1.91 (2H, m, CH2), 2.63 (2H, t, J=7.6 Hz, CH2), 3.04 (3H, s, NCH3), 3.05 (3H, s, NCH3), 3.40 (2H, broad t, J=7.5 Hz, NCH2), 3.90 (2H, broad s, NCH2), 6.99 (2H, m, aromatics), 7.14 (2H, m, aromatics). Anal. Calcd for C16H19FN2O3: C, 62.73; H, 6.25; N, 9.14. Found: C, 62.75; H, 6.23; N, 9.11.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-[3-(4-fluorophenyl)-propyl]-N-methyl-acetamide | 0.62 mmol, 0.20 g | CC1(OC(C(O1)=CC(=O)N(C)CCCC1=CC=C(C=C1)F)=O)C | C17H20FNO4
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(4-fluorophenyl)-propyl]-methyl-amide | 0.11 g, 56% yield | FC1=CC=C(C=C1)CCCN(C(=O)C=1CN(C(C1O)=O)C)C | C16H19FN2O3
